2185-01-25 09:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2185-1-25**] 12:00 AM
 LUMBAR PUNCTURE - At [**2185-1-25**] 01:12 AM
   - pt responding, opening eyes to verbal stimuli.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   ISS
   Nystatin
   Clonidine
   Prednisone
   Tacrolimus
   Acetylcysteine
   Bactrim
   ASA
   Azathioprine
   Pantoprazole
   Lasix
   Flumazenil
   Simvastatin
   Heparin
   Senna
   Colace
   chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-25**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 68 (56 - 68) bpm
   BP: 140/56(77) {126/52(70) - 159/69(88)} mmHg
   RR: 12 (12 - 14) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     11 mL
                                                                    850 mL
   PO:
             TF:
   IVF:
                                                                     11 mL
                                                                    850 mL
   Blood products:
   Total out:
                                                                     60 mL
                                                                    560 mL
   Urine:
                                                                     60 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -49 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 46.2 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/36/142/19/-2
   Ve: 6.6 L/min
   PaO2 / FiO2: 355
   Physical Examination
   Gen: intubated and sedated, withdrawing to painful stimuli (R > L)
   HEENT: No conjunctival pallor. PERRLA, No icterus. MMM. OP clear.
   NECK: Supple, No JVD.
   CV: RRR. nl S1, S2. 2/6 SEM, no rubs or [**Last Name (un) 2911**]. well healed CABG
   LUNGS: CTAB, good BS BL, No W/R/C
   ABD: Soft well healed large midline abd scar, NT, ND. NL BS.  No HSM
   EXT: WWP, NO CCE. AKA amb on left. Large scar over left hip
   2+ DP on R
   SKIN: fungal rash in left groin
   genital: tight but distentable R inguinal hernia.
   NEURO: Unresponsive to voice, withdraws to pain R > L. 2+ reflexes,
   equal BL. tone normal
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Labs / Radiology
   255 K/uL
   12.3 g/dL
   221 mg/dL
   1.6 mg/dL
   19 mEq/L
   5.5 mEq/L
   40 mg/dL
   107 mEq/L
   136 mEq/L
   36.1 %
   9.4 K/uL
        [image002.jpg]
   EKG, repeat this am, conduction delays mostly resolved, ST changes
   stable
   Blood pending
   CSF GS no polys, no organisms
   Urine to be collected
                            [**2185-1-24**]  11:27 PM
                            [**2185-1-25**]  03:27 AM
   WBC
   9.4
   Hct
   36.1
   Plt
   255
   Cr
   1.6
   TCO2
   23
   Glucose
   221
   Other labs: PT / PTT / INR:13.6/23.9/1.2, ALT / AST:31/49, Alk Phos / T
   Bili:145/0.4, Differential-Neuts:92.7 %, Lymph:6.2 %, Mono:0.7 %,
   Eos:0.4 %, Lactic Acid:1.1 mmol/L, LDH:955 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   A/P: This is a 62 y/o with multiple prior episodes of altered MS [**3-13**]
   hypoglycemia, CAD, ESRD s/p transplant who presents with unexplained
   acutue Change in Mental status.
   .
   # altered mental status: Ddx includes infection, but no WBC, not septic
   appearing. NO obvious source CXR clear, neg UA. CSF low WBC. Although
   is hypothermic. However pt on imunosupressions, s/p splenectomy so may
   not mount fever.  CVA: ? withdrawing from pain onr R > L, overall exam
   non-focal. ? seizure activity in ED, dilatnin loaded in OSH.
   toxic-medabolic Cr 2.0, LFTs only mildly elevated. BG, no hypoglycemia
   noted.  Ingestion. Klonipin bottle near chair. Elevated Tylenol with
   unclear [**Name2 (NI) 2912**] period. ? Press syndrome, HTN on admission, h/o old
   lacunar infart.
   - mri/mra head/neck to evaluate for acute stroke
   - f/U LP cult, add on hsv pcr given calcification in CT tempoaral lobes
   - flumazenil 0.2 mg IV X  1 without significant change in MS
   - + opiates, no documentation of opiate in OSH or hear.
   - Graduallly clearing MS, Tylenol level, klonipin bottle, positive
   opiates, resolving conduction delays on EKG all pointing toward
   [**Name2 (NI) 2912**]. When extubated should have sitter, psych to eval for SI.
   -EEG in am
   -f/u cultures.
   - Sent cdiff given recent diarrhea.
   -appreciate transplant recs. Concern for lack of clear abd exam getting
   CT abd with PO contrast to screen for abd pathology. MR is top priority
   -NAC for possible tylenol OD. Qualifies of IV regimen based on tylenol
   > 10 with no clear ingestion time. Tylenol level 76 at 2:30 am. Need to
   clearify on normogram if still within hepatotoxic range.
   - review CT head with rads
   -f/u neuro recs
   .
   #Intubated: for airwary protection. RSBI 56. Ween to PS as possible
   after studies complete today
   .
   #DM: history of 4 hypoglycemic episodes leading to "coma" according to
   family. BG ok on all hosptial records. Possible having prolonged MS
   change in setting of hypoglycemia. However BG not low on presentation.
   -trend BG, 444 this am
   -conservative SS
   .
   #ESRD s/p transplant: Cr 2.0 at baseline. Similar now.
   -transplant following
   -f/u prograf levels
   -continue azthioprine. prednisone
   -trend CR and UOP
   .
   #CAD: S/p CABG, per family recent cath at [**Hospital3 **]
   -continue ASA, coreg,
   -d/c statin in setting of possible Tylenol OD
   -repeat EKG improved conduction delay pointing towards ingestion
   -echo today
   .
   # HTN: continue clonidine, lasix. Add back coreg after extubated, clear
   won
t need sedation
   .
   # fungal infection: Nystatin crm for Left inguinal mass.
   .
   # inguinal hernia: at baseline per family.
   .
   # FEN: NPO for now, replete lytes
   .
   # PPx: PPx, heparin SQ, BM reg, ISS, PPI
   .
   # CODE: DNR, confirmed with wife HCP
   .
   # COMM: wife
   .
   # DISP: ICU for now
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-1-24**] 11:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-01-26 05:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2185-1-25**] 12:00 PM
 EEG - At [**2185-1-25**] 02:30 PM
 ULTRASOUND - At [**2185-1-25**] 03:00 PM
   Echocardiogram
   - TTE
 markedly dilate LA, LVH, EF > 55%, trivial MR
   - MRI/MRA
 R ICA stenosis, R vertebral stenosis
   - Nuero recs
 cont current [**Last Name (LF) 2934**], [**First Name3 (LF) 116**] look at MRI, will re-eval when
   extubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Cefepime
   Vanco
   Asa
   Coreg
   Nystatin
   Clonidine
   Prednisone
   Tacrolimus
   s/p acetylcycteine
   Bactrim
   Azathioprine
   Pantoprazole
   Lasix
   ISS
   Heparin
   Senna
   Colace
   chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-26**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 101.2
   Tcurrent: 37.7
C (99.8
   HR: 76 (63 - 76) bpm
   BP: 169/58(88) {137/53(74) - 185/78(104)} mmHg
   RR: 12 (11 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,722 mL
                                                                    314 mL
   PO:
             TF:
   IVF:
                                                                  1,772 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  2,170 mL
                                                                    610 mL
   Urine:
                                                                  2,170 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    552 mL
                                                                   -296 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 97%
   ABG: ////
   Ve: 10.5 L/min
   Physical Examination
   Gen: intubated, awaking to voice, appears oriented
   HEENT: No conjunctival pallor. PERRLA, No icterus. MMM. OP clear.
   NECK: Supple, No JVD.
   CV: RRR. nl S1, S2. 2/6 SEM, no rubs or [**Last Name (un) 2911**]. well healed CABG
   LUNGS: CTAB, good BS BL, No W/R/C
   ABD: Soft well healed large midline abd scar, NT, ND. NL BS.  No HSM
   EXT: WWP, NO CCE. AKA amb on left. Large scar over left hip
   2+ DP on R
   SKIN: fungal rash in left groin
   genital: tight but distentable R inguinal hernia.
   NEURO responsive to  voice but still lethargic, following commands
   Labs / Radiology
   255 K/uL
   12.3 g/dL
   221 mg/dL
   1.6 mg/dL
   19 mEq/L
   5.5 mEq/L
   40 mg/dL
   107 mEq/L
   136 mEq/L
   36.1 %
   9.4 K/uL
        [image002.jpg]
   WBC 11.7, HCT 34
   K 4.4, Cr 1.5, phos 2.3
   tacroFK: 4.4
   urine and blood cult pending
   HSV PCR pending
   CSF cult pending
   LDH 955 to 1225.
                            [**2185-1-24**]  11:27 PM
                            [**2185-1-25**]  03:27 AM
   WBC
   9.4
   Hct
   36.1
   Plt
   255
   Cr
   1.6
   TropT
   0.04
   TCO2
   23
   Glucose
   221
   Other labs: PT / PTT / INR:13.6/23.9/1.2, CK / CKMB /
   Troponin-T:438/9/0.04, ALT / AST:31/49, Alk Phos / T Bili:145/0.4,
   Differential-Neuts:92.7 %, Lymph:6.2 %, Mono:0.7 %, Eos:0.4 %, Lactic
   Acid:1.1 mmol/L, LDH:955 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   A/P: This is a 62 y/o with multiple prior episodes of altered MS [**3-13**]
   hypoglycemia, CAD, ESRD s/p transplant who presents with unexplained
   acutue Change in Mental status.
   .
   # altered mental status: Ddx includes infection, but no WBC on admitt,
   not septic appearing. NO obvious source CXR clear on admit, neg UA. CSF
   low WBC. Although is hypothermic. However pt on imunosupressions, s/p
   splenectomy so may not mount fever.  CVA prelim MRI/ MRA no obvious
   CVA. ? seizure activity in ED, dilatnin loaded in OSH. toxic-medabolic
   Cr 2.0, LFTs only mildly elevated. BG, no hypoglycemia noted.
   Ingestion. Klonipin bottle near chair. Elevated Tylenol with unclear
   [**Name2 (NI) 2912**] period. ? Press syndrome, HTN on admission, h/o old lacunar
   infart.
   - mri/mra head/neck to evaluate for acute stroke, prelim negative but
   did show Right ICA and vertebral art stenosis
   - f/U LP cult, hsv pcr given calcification in CT tempoaral lobes
   - flumazenil 0.2 mg IV X  1 without significant change in MS
   - + opiates, no documentation of opiate in OSH or here, wife denies pt
   taking any.
   - Graduallly clearing MS, Tylenol level, klonipin bottle, positive
   opiates, resolving conduction delays on EKG all pointing toward
   [**Name2 (NI) 2912**]. When extubated should have sitter, psych to eval for SI.
   -EEG : slow and disorganized background indicative of mild
   encephalopathy, no seizure activiy
   -f/u cultures.
   - Send cdiff given recent diarrhea.
    -s/p NAC for possible tylenol OD. Qualifies for  IV regimen based on
   tylenol > 10 with no clear ingestion time. Tylenol level 76 at 2:30 am.
   -f/u neuro recs
   .
   #Intubated: for airwary protection. RSBI 56.
   -         tolearating CPAP well.
   -         Wait to extubate until results of US in case of need for IR
   procedure. If no IR intervention soon extubate.
   # Fever: New onset [**1-26**] CXR shows possible retrocardiac opacity and
   now on vent for > 48 hrs. UA negative. Blood and urine cult drawn
   -cover for VAP with vanc and cefepime
   - follow cults
   -sputum shows OP flora, repeat today
   .
   # Abd mass:  On CT: large hypoattenuating liver mass and 2 smaller
   lesions. Also Soft tiuss mass continuous with pancreatic tail and
   gastric wall. Concerning for pancreatic mass with extension into the
   stomach wall. Us abd pending
   -         Unclear how mass relates to mental status change unless
   insulinoma.
   -         Concern for lymphoma given LDH and renal transplant on
   immunosuppressive
   -         Eval with US, call IR if bx possible
   #DM: history of 4 hypoglycemic episodes leading to "coma" according to
   family. BG ok on all hosptial records. Possible having prolonged MS
   change in setting of hypoglycemia. However BG not low on presentation.
   -         received glargine and SS, now off D5 given with NAC
   -         reeval BG before giving lantus this evening
   .
   #ESRD s/p transplant: Cr 2.0 at baseline. Similar now.
   -transplant following
   - prograf levels good
   -continue azthioprine. prednisone
   -trend CR and UOP
   .
   #CAD: S/p CABG, per family recent cath at [**Hospital3 **]
   -continue ASA, coreg,
   -d/c statin in setting of possible Tylenol OD
   -[**1-25**]  EKG improved conduction delay pointing towards ingestion
   -echo NL EF no sign abnormalities
   - EKG this am shows ST elevation in AVR conserning for proximal Left
   coronary lesion. Compare to [**Hospital3 **] ekg
   .
   # HTN: continue clonidine, lasix. Added back coreg after SBP 190 this
   am. Titrate up as necessary
   .
   # fungal infection: Nystatin crm for Left inguinal mass.
   .
   # inguinal hernia: at baseline per family.
   .
   # FEN: NPO for now, Nutrition consult if now extubating soon, replete
   lytes. IVF with
   .
   # PPx: PPx, heparin SQ, BM reg, ISS, PPI
   .
   # CODE: DNR, confirmed with wife HCP
   .
   # COMM: wife
   .
   # DISP: ICU for now
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-1-24**] 11:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-01-27 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2185-1-26**] 09:00 AM
 ULTRASOUND - At [**2185-1-26**] 02:22 PM
   liver and gallbladder ultrasound
 FEVER - 101.2
F - [**2185-1-26**] 08:00 AM
   CXR- found to have ? retrocardiac opacity, started on vanco (per
   nursing had some thick secretions). FYI: prelim read per radiology is
   'lungs clear, atelectasis resolved'.
   -US abd: Multiple hypoechoic liver lesions which are nonspecific but
   concerning for
   malignant process. Pancreatic lesion not imaged due to overlying bowel
   gas.
   -EEG: abnormal routine EEG due to the presence of a slow and
   disorganized background indicative of mild encephalopathy.
   Medication, metabolic disturbances, and infection are the most common
   causes. Nevertheless, there were no focal, lateralized, or epileptiform
   features noted.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2185-1-26**] 04:24 PM
   Cefipime - [**2185-1-26**] 05:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-27**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.7
C (99.8
   HR: 76 (72 - 93) bpm
   BP: 186/60(95) {116/37(55) - 193/80(104)} mmHg
   RR: 14 (12 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,077 mL
                                                                    815 mL
   PO:
             TF:
   IVF:
                                                                  1,907 mL
                                                                    815 mL
   Blood products:
   Total out:
                                                                  3,095 mL
                                                                    915 mL
   Urine:
                                                                  3,095 mL
                                                                    915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,018 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 387 (369 - 549) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 7.5 L/min
   Physical Examination
   Gen: intubated, arousable, alert
   HEENT: No conjunctival pallor. PERRLA, No icterus. MMM. OP clear.
   NECK: Supple, No JVD.
   CV: RRR. nl S1, S2. 2/6 SEM, no rubs or [**Last Name (un) 2911**]. well healed CABG
   LUNGS: CTAB, good BS BL, No W/R/C
   ABD: Soft well healed large midline abd scar, NT, ND. NL BS.  No HSM
   EXT: WWP, NO CCE. AKA amb on left. Large scar over left hip
   2+ DP on R
   SKIN: fungal rash in left groin
   genital: tight but distentable R inguinal hernia.
   NEURO responsive to  voice but still lethargic, following commands
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   261 K/uL
   11.3 g/dL
   111 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.6 mEq/L
   31 mg/dL
   105 mEq/L
   138 mEq/L
   33.5 %
   9.1 K/uL
        [image002.jpg]
                            [**2185-1-24**]  11:27 PM
                            [**2185-1-25**]  03:27 AM
                            [**2185-1-26**]  05:07 AM
                            [**2185-1-27**]  04:33 AM
   WBC
   9.4
   11.7
   9.1
   Hct
   36.1
   34.0
   33.5
   Plt
   255
   279
   261
   Cr
   1.6
   1.5
   1.5
   TropT
   0.04
   TCO2
   23
   Glucose
   221
   155
   111
   Other labs: PT / PTT / INR:13.0/24.5/1.1, CK / CKMB /
   Troponin-T:438/9/0.04, ALT / AST:20/22, Alk Phos / T Bili:131/0.5,
   Differential-Neuts:92.7 %, Lymph:6.2 %, Mono:0.7 %, Eos:0.4 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:891 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   A/P: This is a 62 y/o with multiple prior episodes of altered MS [**3-13**]
   hypoglycemia, CAD, ESRD s/p transplant who presents with unexplained
   acute Change in Mental status.
   .
   # Altered Mental Status: Ddx includes infection, but no WBC on admitt,
   not septic appearing. NO obvious source CXR clear on admit, neg UA. CSF
   low WBC. Although is hypothermic. However pt on imunosupressions, s/p
   splenectomy so may not mount fever.  CVA prelim MRI/ MRA no obvious
   CVA. ? seizure activity in ED, dilatnin loaded in OSH. toxic-medabolic
   Cr 2.0, LFTs only mildly elevated. BG, no hypoglycemia noted.
   Ingestion. Klonipin bottle near chair. Elevated Tylenol with unclear
   [**Name2 (NI) 2912**] period. ? Press syndrome, HTN on admission, h/o old lacunar
   infarct.  Now with lesions in liver and calcified pancreatic tail
   unsure if related to presentation to hospital.
   - mri/mra head/neck to evaluate for acute stroke, prelim negative but
   did show Right ICA and vertebral art stenosis
   - f/U LP cult, hsv pcr given calcification in CT tempoaral lobes
   - flumazenil 0.2 mg IV X  1 without significant change in MS
   - + opiates, no documentation of opiate in OSH or here, wife denies pt
   taking any.
   -Graduallly clearing MS, Tylenol level, klonipin bottle, positive
   opiates, resolving conduction delays on EKG all pointing toward
   [**Name2 (NI) 2912**].
   -EEG : slow and disorganized background indicative of mild
   encephalopathy, no seizure activiy
   -f/u cultures.
   -Send c-diff given recent diarrhea
   -s/p NAC for possible tylenol OD. Qualifies for IV regimen based on
   tylenol > 10 with no clear ingestion time. Tylenol level 76 at 2:30 am
   -neurology following
f/u on mri/mra
   .
   #Intubated: for airwary protection. RSBI 56.
   -tolerating CPAP well.
   -Wait to extubate until results of US in case of need for IR procedure.
   If no IR intervention soon extubate.
   -will extubate this AM
   .
   # Fever: New onset [**1-26**] CXR shows possible retrocardiac opacity and
   now on vent for > 48 hrs. UA negative. Blood and urine cult drawn
   -cover for VAP with vanc and cefepime
   - follow cults, CBC
   -sputum shows OP flora, repeat today
   .
   # Abd mass:  On CT: large hypoattenuating liver mass and 2 smaller
   lesions. Also Soft tiuss mass continuous with pancreatic tail and
   gastric wall. Concerning for pancreatic mass with extension into the
   stomach wall. Us abd pending
   -Unclear how mass relates to mental status change unless insulinoma.
   -Concern for lymphoma given LDH and renal transplant on
   immunosuppressive
   -Eval with US showed hypoechoic foci - IR to bx [**1-28**]
   #DM: history of 4 hypoglycemic episodes leading to "coma" according to
   family. BG ok on all hosptial records. Possible having prolonged MS
   change in setting of hypoglycemia. However BG elevated on
   presentation.  BG now stable on current dosing regimen.
   -stable on current dose of Lantus with min use of ISS
   .
   #ESRD s/p transplant: Cr 2.0 at baseline. Similar now.
   -transplant following
   -prograf levels good
   -continue azthioprine. prednisone
   -trend CR and UOP
   .
   #CAD: S/p CABG, per family recent cath at [**Hospital3 **]
   -continue ASA, coreg,
   -d/c statin in setting of possible Tylenol OD
   -[**1-25**]  EKG improved conduction delay pointing towards ingestion
   -echo NL EF no sign abnormalities
   -EKG this am shows ST elevation in AVR conserning for proximal Left
   coronary lesion. Compare to [**Hospital3 **] ekg
   .
   # HTN: continue clonidine, lasix. Added back coreg after SBP 190 this
   am. Titrate up as necessary
   .
   # fungal infection: Nystatin crm for Left inguinal mass.
   .
   # inguinal hernia: at baseline per family.
   .
   # FEN: NPO for now, Nutrition consult if now extubating soon, replete
   lytes. IVF with
   .
   # PPx: PPx, heparin SQ, BM reg, ISS, PPI
   .
   # CODE: DNR, confirmed with wife HCP
   .
   # COMM: wife
   .
   # DISP: ICU for now
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-1-27**] 04:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Talked to pt at length after extubation. He does not recall the
   circumstances surrounding his admission. He remembers preparing to
   drive for errans around town. He says he may have tacken Tylenol for
   phantom pain, but does not remember having the pain on the day of
   presentation. He can not quantify any possible dose. He says he only
   takes lyrica and occasional Tylenol for pain. He does not have access
   to opiates. He denies Suicidal ideations or feelings of depression. A
   one to one sitter is not necessary at this time.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2683**], MD
   on:[**2185-1-27**] 16:39 ------

2185-01-28 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2185-1-27**] 12:37 PM
   -extubated
   -pt alert but slow to respond, does not remember events leading to
   hospitaliztion. Denies suicidal ideation or pain med [**Year (4 digits) 2912**] other
   than possible tylenol
   -CMV, [**Male First Name (un) 2972**] virus sent as neuro rec
   -in for IR bx of liver lesion, but IR refusing until off ASA for 5
   days. d/ced 81mg asa, getting bleeding time this am to prove ok
   -left message with PCP
   [**Name Initial (PRE) **] need to call neuro on ? small subacute infarct on final MR [**First Name (Titles) 2973**]
[**Last Name (Titles) 2974**]ies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2185-1-27**] 06:03 PM
   Vancomycin - [**2185-1-27**] 08:36 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-1-27**] 07:43 AM
   Heparin Sodium (Prophylaxis) - [**2185-1-27**] 08:35 PM
   Hydralazine - [**2185-1-28**] 04:20 AM
   Other medications:
   Coreg
   Protonix
   Bactrim
   Colace
   Nystatin
   Clonidine
   Prednisone
   Tacrolimus
   Imuran
   Lasix
   ISS
   heparin SQ
   Senna
   chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-28**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 72 (69 - 80) bpm
   BP: 162/64(84) {128/38(65) - 186/80(100)} mmHg
   RR: 16 (9 - 30) insp/min
   SpO2: 98% (96-100)
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.5 kg (admission): 93.5 kg
                  Total In:
                                                                  2,743 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                  2,333 mL
   Blood products:
   Total out:
                                                                  3,175 mL
                                                                    640 mL
   Urine:
                                                                  3,175 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -432 mL
                                                                   -640 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 421 (421 - 450) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 7.6 L/min
   Physical Examination
   Gen: alert, responding appropriately but slowly. Flat affect
   HEENT: No conjunctival pallor. PERRLA, No icterus. MMM. OP clear.
   NECK: Supple, JVD to 2 cm above clavicle
   CV: RRR. nl S1, S2. 2/6 SEM, no rubs or [**Last Name (un) 2911**]. well healed CABG
   LUNGS: CTAB, good BS mild R base crackles
   ABD: Soft well healed large midline abd scar, NT, ND. NL BS.  No HSM
   EXT: WWP, NO CCE. AKA amb on left. Large scar over left hip
   2+ DP on R
   SKIN: fungal rash in left groin
   genital: tight but distentable R inguinal hernia.
   NEURO responsive to  voice but still lethargic, following commands
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   272 K/uL
   11.4 g/dL
   131 mg/dL
   1.4 mg/dL
   27 mEq/L
   4.3 mEq/L
   26 mg/dL
   105 mEq/L
   140 mEq/L
   34.3 %
   8.1 K/uL
        [image002.jpg]
   [**1-27**] tarco level 3.2
   Micro
   Blood 12/15, [**1-26**] pending
   CSF: no growth
   Urine NG
   [**1-26**] sputum sparse OP flora
   [**Male First Name (un) 2972**], CMV, VCV studies added on the csf
   HSV pending
   CA19-9 NL
   LDH 891 to 661
                            [**2185-1-24**]  11:27 PM
                            [**2185-1-25**]  03:27 AM
                            [**2185-1-26**]  05:07 AM
                            [**2185-1-27**]  04:33 AM
                            [**2185-1-28**]  04:05 AM
   WBC
   9.4
   11.7
   9.1
   8.1
   Hct
   36.1
   34.0
   33.5
   34.3
   Plt
   255
   279
   261
   272
   Cr
   1.6
   1.5
   1.5
   1.4
   TropT
   0.04
   TCO2
   23
   Glucose
   221
   155
   111
   131
   Other labs: PT / PTT / INR:13.0/24.5/1.1, CK / CKMB /
   Troponin-T:438/9/0.04, ALT / AST:25/28, Alk Phos / T Bili:145/0.6,
   Differential-Neuts:92.7 %, Lymph:6.2 %, Mono:0.7 %, Eos:0.4 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:661 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P: This is a 62 y/o with multiple prior episodes of altered MS [**3-13**]
   hypoglycemia, CAD, ESRD s/p transplant who presents with unexplained
   acute Change in Mental status.
   .
   # Altered Mental Status: Ddx includes infection, but no WBC on admit,
   not septic appearing. NO obvious source CXR clear on admit, neg UA. CSF
   low WBC. Although is hypothermic. However pt on imunosupressions, s/p
   splenectomy so may not mount fever.  CVA prelim MRI/ MRA no obvious
   CVA. ? seizure activity in ED, dilatnin loaded in OSH. toxic-medabolic
   Cr 2.0, LFTs only mildly elevated. BG, no hypoglycemia noted.
   Ingestion. Klonipin bottle near chair. Elevated Tylenol with unclear
   [**Name2 (NI) 2912**] period. ? Press syndrome, HTN on admission, h/o old lacunar
   infarct.  Now with lesions in liver and calcified pancreatic tail
   unsure if related to presentation to hospital.  Still acting
   encephalopathic. At this point ingestion should not be contributing. ?
   leptomeninigeal disease [**3-13**] lymphoma. Does not explain acute onset.
   Will ask neuro to weigh in on abnormal MR finding and re-eval for cause
   of encephalopathy.
   - mri/mra head/neck to evaluate for acute stroke, prelim negative but
   did show Right ICA and vertebral art stenosis.  Abnormal diffusion
   signal in subcortical white matter lateral to corpus callosum. Sounds
   like lacunar infarct and unlikely to be causing global encephalopathy.
   Will ask neuro to help interperate
   - f/U LP cult, hsv pcr given calcification in CT tempoaral lobes
   -added on CMV, [**Male First Name (un) 2972**], VCV
   - + opiates, no documentation of opiate in OSH or here, wife and pt
   denies taking any.
   -Graduallly clearing MS, Tylenol level, klonipin bottle, positive
   opiates, resolving conduction delays on EKG all pointing toward
   [**Male First Name (un) 2912**].
   -EEG : slow and disorganized background indicative of mild
   encephalopathy, no seizure activiy
   -f/u cultures.
   -s/p NAC for possible tylenol OD. Qualifies for IV regimen based on
   tylenol > 10 with no clear ingestion time. Tylenol level 76 at 2:30 am
   -neurology following
   .
   # Respiratory status: Intubated for airwary protection. Extubated
   successfully yesterday
   .
   # Fever: New onset [**1-26**]. CXR shows possible retrocardiac opacity and
   now on vent for > 48 hrs. UA negative. Blood and urine cult drawn. Was
   covering for VAP with vanc and cefepime. Sputum cultures only OP
   growth, WBC downtrending, afebrile.
   -sputum shows OP flora,
   - stoping Vanc and cefepime
   .
   # Abd mass:  On CT: large hypoattenuating liver mass and 2 smaller
   lesions. Also Soft tiuss mass continuous with pancreatic tail and
   gastric wall. Concerning for pancreatic mass with extension into the
   stomach wall. Us abd pending
   -Unclear how mass relates to mental status change unless insulinoma.
   -Concern for lymphoma given LDH and renal transplant on
   immunosuppressive
   - CA [**95**]-9 not elevated pointed against pancreatic ca
   -Eval with US showed hypoechoic foci
    - IR to bx , however requiring 5 day ASA washout. Getting bleeding
   time to document normal clotting
   -contacting surgery gold to make aware at request of transplant [**Doctor First Name **]
   #DM: history of 4 hypoglycemic episodes leading to "coma" according to
   family. BG ok on all hosptial records. Possible having prolonged MS
   change in setting of hypoglycemia. However BG elevated on
   presentation.  BG now stable on current dosing regimen.
   -stable on current dose of Lantus with min use of ISS
   .
   #ESRD s/p transplant: Cr 2.0 at baseline. Similar now.
   -transplant following
   -prograf levels as per renal. Check am prograf
   -continue azthioprine. prednisone
   -trend CR and UOP
   .
   #CAD: S/p CABG, per family recent cath at [**Hospital3 **]
   -continue ASA, coreg,
   -d/c statin in setting of possible Tylenol OD
   -[**1-25**]  EKG improved conduction delay pointing towards ingestion
   -echo NL EF no sign abnormalities
   -EKG recently showed ST elevation in AVR conserning for proximal Left
   coronary lesion. Compare with prior awaiting fax of previous from PCP
   Dr [**First Name (STitle) 2977**] [**Telephone/Fax (1) 2978**]
   .
   # HTN: continue clonidine, lasix. Added back coreg after SBP 190 this
   am. Titrate up as necessary
   -          increased this am to coreg 25 mg [**Hospital1 **]
   -          s/p hydral x1 overnight for SBP in 170s
   .
   # fungal infection: Nystatin crm for Left inguinal mass.
   .
   # inguinal hernia: at baseline per family.
   .
   # FEN: DM, cardiac diet. No IVF
   .
   # PPx: PPx, heparin SQ, BM reg, ISS, PPI
   .
   # CODE: DNR, confirmed with wife HCP
   .
   # COMM: wife
   .
   # DISP: call out to floor
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-1-27**] 04:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Present for key portions of history and physical exam. Agree with Dr.
   [**Last Name (STitle) 2683**]
s assessment and plan. Mr. [**Known lastname 2979**] is more alert today and is
   oriented to place but still significantly encephalopathic.  We still
   have no good explanation for his encephalopathy.  Awaiting IR bx of abd
   masses. Given risk of PTLD, we will ask Neuro to comment on the
   possibility of CNS lymphomatous involvement.
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2185-1-28**] 14:05 ------

2185-01-29 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - no beds available on FA10
   - no issues overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2185-1-27**] 06:03 PM
   Vancomycin - [**2185-1-28**] 09:26 AM
   Bactrim (SMX/TMP) - [**2185-1-28**] 09:26 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-1-28**] 09:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-29**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 63 (63 - 74) bpm
   BP: 147/64(83) {104/38(58) - 182/71(97)} mmHg
   RR: 20 (4 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 93.5 kg
                  Total In:
                                                                    690 mL
                  PO:
                                                                    480 mL
                  TF:
   IVF:
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                    515 mL
   Urine:
                                                                  1,370 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -680 mL
                                                                   -515 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   299 K/uL
   11.0 g/dL
   126 mg/dL
   1.7 mg/dL
   28 mEq/L
   4.4 mEq/L
   30 mg/dL
   106 mEq/L
   139 mEq/L
   31.9 %
   6.8 K/uL
        [image002.jpg]
                            [**2185-1-24**]  11:27 PM
                            [**2185-1-25**]  03:27 AM
                            [**2185-1-26**]  05:07 AM
                            [**2185-1-27**]  04:33 AM
                            [**2185-1-28**]  04:05 AM
                            [**2185-1-29**]  05:08 AM
   WBC
   9.4
   11.7
   9.1
   8.1
   6.8
   Hct
   36.1
   34.0
   33.5
   34.3
   31.9
   Plt
   255
   279
   261
   272
   299
   Cr
   1.6
   1.5
   1.5
   1.4
   1.7
   TropT
   0.04
   TCO2
   23
   Glucose
   221
   155
   111
   131
   126
   Other labs: PT / PTT / INR:13.0/24.5/1.1, CK / CKMB /
   Troponin-T:438/9/0.04, ALT / AST:25/28, Alk Phos / T Bili:145/0.6,
   Differential-Neuts:92.7 %, Lymph:6.2 %, Mono:0.7 %, Eos:0.4 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:661 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P: This is a 62 y/o with multiple prior episodes of altered MS [**3-13**]
   hypoglycemia, CAD, ESRD s/p transplant who presents with unexplained
   acute Change in Mental status.
   .
   # Altered Mental Status: Ddx includes infection, but no WBC on admit,
   not septic appearing. NO obvious source CXR clear on admit, neg UA. CSF
   low WBC. Although is hypothermic. However pt on imunosupressions, s/p
   splenectomy so may not mount fever.  CVA prelim MRI/ MRA no obvious
   CVA. ? seizure activity in ED, dilatnin loaded in OSH. toxic-medabolic
   Cr 2.0, LFTs only mildly elevated. BG, no hypoglycemia noted.
   Ingestion. Klonipin bottle near chair. Elevated Tylenol with unclear
   [**Name2 (NI) 2912**] period. ? Press syndrome, HTN on admission, h/o old lacunar
   infarct.  Now with lesions in liver and calcified pancreatic tail
   unsure if related to presentation to hospital.  Still acting
   encephalopathic. At this point ingestion should not be contributing. ?
   leptomeninigeal disease [**3-13**] lymphoma. Does not explain acute onset.
   Will ask neuro to weigh in on abnormal MR finding and re-eval for cause
   of encephalopathy.
   - mri/mra head/neck to evaluate for acute stroke, prelim negative but
   did show Right ICA and vertebral art stenosis.  Abnormal diffusion
   signal in subcortical white matter lateral to corpus callosum. Sounds
   like lacunar infarct and unlikely to be causing global encephalopathy.
   Will ask neuro to help interperate
   - f/U LP cult, hsv pcr given calcification in CT tempoaral lobes
   -added on CMV, [**Male First Name (un) 2972**], VCV
   - + opiates, no documentation of opiate in OSH or here, wife and pt
   denies taking any.
   -Graduallly clearing MS, Tylenol level, klonipin bottle, positive
   opiates, resolving conduction delays on EKG all pointing toward
   [**Male First Name (un) 2912**].
   -EEG : slow and disorganized background indicative of mild
   encephalopathy, no seizure activiy
   -f/u cultures.
   -s/p NAC for possible tylenol OD. Qualifies for IV regimen based on
   tylenol > 10 with no clear ingestion time. Tylenol level 76 at 2:30 am
   -neurology following
   .
   # Respiratory status: Intubated for airwary protection. Extubated
   successfully yesterday
   .
   # Fever: New onset [**1-26**]. CXR shows possible retrocardiac opacity and
   now on vent for > 48 hrs. UA negative. Blood and urine cult drawn. Was
   covering for VAP with vanc and cefepime. Sputum cultures only OP
   growth, WBC downtrending, afebrile.
   -sputum shows OP flora,
   - stoping Vanc and cefepime
   .
   # Abd mass:  On CT: large hypoattenuating liver mass and 2 smaller
   lesions. Also Soft tiuss mass continuous with pancreatic tail and
   gastric wall. Concerning for pancreatic mass with extension into the
   stomach wall. Us abd pending
   -Unclear how mass relates to mental status change unless insulinoma.
   -Concern for lymphoma given LDH and renal transplant on
   immunosuppressive
   - CA [**95**]-9 not elevated pointed against pancreatic ca
   -Eval with US showed hypoechoic foci
    - IR to bx , however requiring 5 day ASA washout. Getting bleeding
   time to document normal clotting
   -contacting surgery gold to make aware at request of transplant [**Doctor First Name **]
   #DM: history of 4 hypoglycemic episodes leading to "coma" according to
   family. BG ok on all hosptial records. Possible having prolonged MS
   change in setting of hypoglycemia. However BG elevated on
   presentation.  BG now stable on current dosing regimen.
   -stable on current dose of Lantus with min use of ISS
   .
   #ESRD s/p transplant: Cr 2.0 at baseline. Similar now.
   -transplant following
   -prograf levels as per renal. Check am prograf
   -continue azthioprine. prednisone
   -trend CR and UOP
   .
   #CAD: S/p CABG, per family recent cath at [**Hospital3 **]
   -continue ASA, coreg,
   -d/c statin in setting of possible Tylenol OD
   -[**1-25**]  EKG improved conduction delay pointing towards ingestion
   -echo NL EF no sign abnormalities
   -EKG recently showed ST elevation in AVR conserning for proximal Left
   coronary lesion. Compare with prior awaiting fax of previous from PCP
   Dr [**First Name (STitle) 2977**] [**Telephone/Fax (1) 2978**]
   .
   # HTN: continue clonidine, lasix. Added back coreg after SBP 190 this
   am. Titrate up as necessary
   -          increased this am to coreg 25 mg [**Hospital1 **]
   -          s/p hydral x1 overnight for SBP in 170s
   .
   # fungal infection: Nystatin crm for Left inguinal mass.
   .
   # inguinal hernia: at baseline per family.
   .
   # FEN: DM, cardiac diet. No IVF
   .
   # PPx: PPx, heparin SQ, BM reg, ISS, PPI
   .
   # CODE: DNR, confirmed with wife HCP
   .
   # COMM: wife
   .
   # DISP: call out to floor
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-1-27**] 04:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: